US06350774B1
Using a procedure similar to that described in Example 1-A, 6-benzyloxy-2-(dimethylamino)benzo[b]thiophene was acylated with p-fluorobenzoyl choride to afford 6-benzyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 4-fluorophenyl ketone which was treated with 4-[2-(1-pyrrolidinyl) ethoxy]phenyl magnesium bromide using a procedure similar to that described in Example 1-B to afford title compound in 84% overall yield.

reactant | 6-benzyloxy-2-(dimethylamino)benzo[b]thiophene | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2)N(C)C)C1 | C17H17NOS
reactant | p-fluorobenzoyl choride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 6-benzyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 4-fluorophenyl ketone | FC1=CC=C(C=C1)C(=O)C=1C2=C(SC1N(C)C)C=C(C=C2)OCC2=CC=CC=C2 | C24H20FNO2S
